US08802864B2
a) N-(4-bromo-2-fluoro-5-methylphenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide
To a round bottom flask was added triphosgene (2.57 mmol) and dichloromethane (20 mL) under nitrogen, and the solution was cooled to −78° C. In a separate vial, 4-bromo-2-fluoro-5-methylaniline (7.35 mmol) was dissolved in dichloromethane (20 mL) and Hunig's base (18.4 mmol) was added. This solution was slowly added to the cooled solution and then the reaction was allowed to warm to room temperature. After 10 min, analysis by LCMS indicated desired intermediate formation. The reaction was cooled again to −78° C. and 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide (4.41 mmol) in dichloromethane (5 mL) was added slowly. The reaction was allowed to warm to room temperature and stirred for 20 min. Analysis by LCMS indicated desired product formation. The reaction was poured into a separatory funnel and partitioned with saturated aq sodium bicarbonate. The aqueous layer was extracted with dichloromethane (3×) and the combined organic layers were dried over Na2SO4, filtered, and concentrated to an oil. The residue was purified by silica gel chromatography (0-15% isopropanol/ethyl acetate). The desired fractions were combined and concentrated to afford the title product as an oil (1.9 g, 59%). MS(ES)+ m/e 441.0, 442.9 [M+H]+.

reactant | triphosgene | 2.57 mmol | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-bromo-2-fluoro-5-methylaniline | 7.35 mmol | BrC1=CC(=C(N)C=C1C)F | C7H7BrFN
reactant | Hunig's base | 18.4 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide | 4.41 mmol | C1(CC1)C(=O)N1C[C@@H](CC1)CC(=O)NN | C10H17N3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(4-bromo-2-fluoro-5-methylphenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | BrC1=CC(=C(C=C1C)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C18H22BrFN4O3
